US07342015B2
2-[4-(1H-Indol-4-yl)-piperazin-1-yl]-ethanethiol
1-(1H-Indol-4-yl)piperazine (3.9 g) and thiirane (1.75 g) was dissolved in DMF (200 mL) and refluxed for 1 h. The mixture was evaporated and re-dissolved in TBF, dried with MgSO4, filtered and evaporated to give the an oil which was subjected to purification by column chromatography (silica gel; ethyl acetate and heptane) giving the title compound as an oil (2,2 g). MS m/z (%): 261 (MH+, 100%), 202 (100%), 159 (23%).

reactant | 1-(1H-Indol-4-yl)piperazine | 3.9 g | N1C=CC2=C(C=CC=C12)N1CCNCC1 | C12H15N3
reactant | thiirane | 1.75 g | S1CC1 | C2H4S
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 2-[4-(1H-Indol-4-yl)-piperazin-1-yl]-ethanethiol | 2,2 g | N1C=CC2=C(C=CC=C12)N1CCN(CC1)CCS | C14H19N3S
